US04112096
2-(Propionyloxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one (3.0 g, 0.0139 mole) is suspended in 250 ml of propionic acid and the mixture refluxed overnight under nitrogen. The resultant solution is stripped to a solid and recrystallized from absolute ethanol to give 2.6 g (69% yield) of analytically pure title compound, m.p. 184°-186°.

reactant | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 0.0139 mole, 3.0 g | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
solvent | propionic acid | 250 ml | C(CC)(=O)O | C3H6O2
product | 2-(Propionyloxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 69% yield | C(CC)(=O)OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C14H13N3O3
